US07915424B2
5-(3-Amino-4-fluorophenylethynyl)-nicotinonitrile
Prepare essentially as described in EXAMPLE 138 using 3-bromonicotinonitrile (3.4 g, 18.3 mmol) and 2-fluoro-5-trimethylsilanylethynyl-phenylamine, (prepared as described in PREPARATION 41), (3.8 g, 18.3 mmol) to give the title compound as a white solid (2.8 g, 65%).

reactant | 3-bromonicotinonitrile | 18.3 mmol, 3.4 g | BrC1(C#N)CN=CC=C1 | C6H5BrN2
reactant | 2-fluoro-5-trimethylsilanylethynyl-phenylamine | 18.3 mmol, 3.8 g | FC1=C(C=C(C=C1)C#C[Si](C)(C)C)N | C11H14FNSi
product | 5-(3-Amino-4-fluorophenylethynyl)-nicotinonitrile | 2.8 g, 65% | NC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C14H8FN3
